US04456616
C. 1,2-Dihydroxyheptane
A solution of the title B ketal (1.87 g, 11.8 mmol) in methanol (30 ml) and concentrated HCl (2.5 ml) was stirred at room temperature 3 hours. The solution was basified by adding concentrated NH4OH solution (10 ml) and the solvent was removed in vacuo. Saturated NaCl solution (50 ml) was added to the residue and the product was extracted into ether (4×50 ml). The combined ether extracts were washed with saturated NaCl solution (50 ml), dried (MgSO4) and freed of solvent in vacuo leaving the title C diol as a yellow oil (1.13 g, 81%) 13-C NMR consistent. TLC:silica gel, Et2O, vanillin, Rf =0.25.

reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | Et2O | CCOCC | C4H10O
product | 1,2-Dihydroxyheptane | OCC(CCCCC)O | C7H16O2
